US06599917B1
g) 2-Benzyl-6-[(3R,4R)-3,4-ethylenedioxypyrrolidine-1-yl]-3-iodopyridine
4.04 g of N-iodosuccinimide was added little by little to a solution of 40 ml of N,N-dimethylformamide containing 4.84 g of 2-benzyl-6-[(3R,4R)-3,4-ethylenedioxypyrrolidine-1-yl]pyridine under stirring in an ice bath, followed by stirring overnight as it was. The reaction solution was poured into water, and extracted with ethyl acetate. The organic phase was successively washed with an aqueous sodium sulfite solution, water and brine, dried over anhydrous magnesium sulfate and the solvent was removed. The residue was subjected to filtration using silica gel and crystallized from hexane/ethyl acetate, to give 5.12 g of the target compound.

reactant | N-iodosuccinimide | 4.04 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | N,N-dimethylformamide | 40 ml, 4.84 g | CN(C=O)C | C3H7NO
reactant | 2-benzyl-6-[(3R,4R)-3,4-ethylenedioxypyrrolidine-1-yl]pyridine | C(C1=CC=CC=C1)C1=NC(=CC=C1)N1C[C@@H]2[C@@H](C1)OCCO2 | C18H20N2O2
solvent | water | O | H2O
product | 2-Benzyl-6-[(3R,4R)-3,4-ethylenedioxypyrrolidine-1-yl]-3-iodopyridine | 5.12 g | C(C1=CC=CC=C1)C1=NC(=CC=C1I)N1C[C@@H]2[C@@H](C1)OCCO2 | C18H19IN2O2
